US04272284
Preparation of N-(t-butyloxy carbonyl-methylamino)dihydroisoindole
A vigorously stirred solution 13.15 g (0.05 mole) of o-xylylene dibromide and 7.3 g (0.05 mole) of t-butyl 2-methylcarbazate in 25 ml of dimethylformamide was warmed to 50° and 14 ml of triethylamine was added during 5-8 minutes while maintaining the temperature at 50°-60°. After complete addition the reaction mixture was stirred at room temperature for 3 hrs. and diluted with 100 ml of water. After stirring for 1 hr the mixture was extracted with ethyl acetate. The organic phase was separated and dried. Filtration and evaporation gave a gummy solid which was used without further purification. The IR and NMR of the material were consistent with the proposed structure.

reactant | o-xylylene dibromide | 0.05 mole, 13.15 g | C=1(C(=CC=CC1)CBr)CBr | C8H8Br2
reactant | t-butyl 2-methylcarbazate | 0.05 mole, 7.3 g | CN(C(=O)OC(C)(C)C)N | C6H14N2O2
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-(t-butyloxy carbonyl-methylamino)dihydroisoindole | C(C)(C)(C)OC(=O)N(N1CC2=CC=CC=C2C1)C | C14H20N2O2
